US05552409
a. 1,4-dichloro-1,2,2-trifluorocyclobut-3-ene
To a solution of 1,1,2 trichloro-2,3,3-trifluorocyclobutane (55.5 g) in 100 ml of anhydrous ether, triethylamine (40 ml) was added dropwise over 30 min at room temperature, and the mixture was stirred overnight at ambient temperature. The mixture was then stirred with 120 ml H2O and 7.5 ml of concentrated HCl. The ether layer was washed with H2O (100 ml), brine (100 ml), dried over anhydrous MgSO4, and evaporated in vacuo. The residue was distilled fractionally at atmospheric pressure from 64°-68° C. to yield 36 g (79%) of a colorless liquid as pure product.

reactant | 1,1,2 trichloro-2,3,3-trifluorocyclobutane | 55.5 g | ClC1(C(C(C1)(F)F)(F)Cl)Cl | C4H2Cl3F3
reactant | H2O | 120 ml | O | H2O
reactant | HCl | 7.5 ml | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | 1,4-dichloro-1,2,2-trifluorocyclobut-3-ene | 36 g, 79% | ClC1(C(C=C1Cl)(F)F)F | C4HCl2F3
